US05753665
A solution of 4-(2,4-dichlorophenoxy)-1-(dimethylamino)-1-penten-3-one (2.9 g) in glacial acetic acid (25 ml) was added to a stirred solution of 3-amino-1,2,4-triazole (0.93 g) also in glacial acetic acid (25 ml). The mixture was heated under reflux for 5 hours and then cooled to room temperature. The mixture was then poured into 200 ml of ice-water and extracted with toluene. The toluene extracts were washed with a 10% aqueous solution of sodium hydrogen carbonate followed by water, then dried over anhydrous magnesium sulphate and the solvent was evaporated under reduced pressure. The residue was triturated with cold diethyl ether and the solid was collected by filtration, followed by recrystallisation from a mixture of ethyl acetate and petroleum ether (b.p. 40°-60° C.) to give 7-[1-(2,4-dichlorophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 2.02 g, (mp 137°-138° C.).

reactant | 4-(2,4-dichlorophenoxy)-1-(dimethylamino)-1-penten-3-one | 2.9 g | ClC1=C(OC(C(C=CN(C)C)=O)C)C=CC(=C1)Cl | C13H15Cl2NO2
reactant | 3-amino-1,2,4-triazole | 0.93 g | NC1=NNC=N1 | C2H4N4
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 7-[1-(2,4-dichlorophenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | ClC1=C(OC(C)C2=CC=NC=3N2N=CN3)C=CC(=C1)Cl | C13H10Cl2N4O
